US07790770B2
To a solution of 2,2-bis(3-(trifluoromethoxy)phenyl)acetic acid (198 mg, 0.52 mmol) in THF (3.5 mL) at −15° C. was added dropwise a 1.6 M solution of nBuLi in hexanes (0.65 mL, 1.04 mmol). The reaction mixture was stirred for 45 min. The solution was cooled to −40° C. and a solution of benzylbromide (130 mg, 0.52 mmol) in THF (0.6 mL) was added dropwise. The ice-bath was removed and the reaction mixture was allowed to warm up to rt. The reaction was quenched by addition of sat. NH4Cl (5 mL) and extracted with Et2O (3×5 mL). The combined organic portions were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica chromatography, eluting with 30% EtOAc/hexane containing 1% AcOH to give 3-(4-bromophenyl)-2,2-bis(3-(trifluoromethoxy)phenyl)propanoic acid (232 mg, 81% yield) as a clear colorless oil. LCMS: RT=1.93 min [M+H] 549.0 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) δ ppm 3.62 (s, 2H), 6.53 (d, J=8.35 Hz, 2H), 7.04 (s, 2H), 7.10 (d, J=7.91 Hz, 2H), 7.13-7.19 (m, 4H), 7.30 (t, J=8.13 Hz, 2H).

reactant | 2,2-bis(3-(trifluoromethoxy)phenyl)acetic acid | 0.52 mmol, 198 mg | FC(OC=1C=C(C=CC1)C(C(=O)O)C1=CC(=CC=C1)OC(F)(F)F)(F)F | C16H10F6O4
reactant | nBuLi | [Li]CCCC
reactant | benzylbromide | 0.52 mmol, 130 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | THF | 3.5 mL | C1CCOC1 | C4H8O
reactant | THF | 0.6 mL | C1CCOC1 | C4H8O
product | 3-(4-bromophenyl)-2,2-bis(3-(trifluoromethoxy)phenyl)propanoic acid | 232 mg, 81% yield | BrC1=CC=C(C=C1)CC(C(=O)O)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F | C23H15BrF6O4
